US07514566B2
tert-Butyl (2S,3S)-1-oxo-1-((R)-2-oxo-4-phenyloxazolidin-3-yl)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate
To a 250 mL round-bottomed flask was added (R)-3-((2S,3S)-2-azido-3-(4-(trifluoromethyl)phenyl)butanoyl)-4-phenyloxazolidin-2-one (4.08 g, 9.75 mmol), Boc2O (19 g, 14.6 mmol), and EtOAc (60.00 mL, 9.75 mmol). The solution was degassed by evacuation and refilling with nitrogen three times. Palladium on carbon (0.104 g, 0.975 mmol) was added, and a balloon of H2 was added to the reaction. The solution was saturated with hydrogen by evacuating and backfilling with hydrogen four times. The reaction was then allowed to stir for 12 hours. The reaction was filtered through Celite and reduced to an oil which was used immediately in the next step.

reactant | (R)-3-((2S,3S)-2-azido-3-(4-(trifluoromethyl)phenyl)butanoyl)-4-phenyloxazolidin-2-one | 9.75 mmol, 4.08 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)[C@@H](C)C1=CC=C(C=C1)C(F)(F)F | C20H17F3N4O3
reactant | Boc2O | 14.6 mmol, 19 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | 9.75 mmol, 60.00 mL | CCOC(=O)C | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.975 mmol, 0.104 g | [Pd] | Pd
product | tert-Butyl (2S,3S)-1-oxo-1-((R)-2-oxo-4-phenyloxazolidin-3-yl)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | O=C([C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C25H27F3N2O5
